US04298739
0.5 Gram of metallic sodium is dissolved in 50 ml of methanol under ice cooling, followed by addition thereto of 3.4 g of 1-methyl-6-hydroxy-3,4-dihydrocarbostyril, 3.2 g of sodium iodide and 5.0 g of N-methyl-N-(4-chlorobutyryl)cyclohexylamine and 4.5-hour reflux under agitation. After the reaction, the reaction solution is poured into 400 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The resultant crude crystals are recrystallized from ligroin to produce 2.9 g of 1-methyl-6-[3-(N-cyclohexyl-N-methylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with melting point of 104.5°-106.5° C.

reactant | sodium | [Na] | Na
reactant | 1-methyl-6-hydroxy-3,4-dihydrocarbostyril | 3.4 g | CN1C(=O)CCC2=CC(=CC=C12)O | C10H11NO2
reactant | sodium iodide | 3.2 g | [I-].[Na+]
reactant | N-methyl-N-(4-chlorobutyryl)cyclohexylamine | 5.0 g | CN(C(CCCCl)=O)C1CCCCC1 | C11H20ClNO
reactant | NaCl | 400 ml | [Na+].[Cl-]
solvent | methanol | 50 ml | CO | CH4O
product | 1-methyl-6-[3-(N-cyclohexyl-N-methylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril | 2.9 g | CN1C(=O)CCC2=CC(=CC=C12)OCCCC(=O)N(C)C1CCCCC1 | C21H30N2O3
